US08420823B2
N-(3-chlorophenyl)-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 73 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 3-chloroaniline as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
product | N-(3-chlorophenyl)-3-(piperidin-1-ylsulfonyl)benzamide | ClC=1C=C(C=CC1)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C18H19ClN2O3S
